US08383652B2
249 mg (6.2 mmol) of sodium hydroxide are added to a solution of 616 mg (0.65 mmol) of ethyl 2-[1-[2-ethoxy-3′-(3-heptyl-1-methylureido)biphenyl-4-yl]meth-(E)-ylidene]butyrate in 15 mL of ethanol. The reaction mixture is heated at 50° C. for 3 hours. The reaction medium is evaporated to dryness, taken up in water and extracted with ethyl acetate. The aqueous phase is acidified with aqueous 2 N hydrochloric acid solution and extracted with ethyl acetate. The organic phases are combined, washed with water and dried over magnesium sulfate. The solvent is evaporated off and the oil obtained is purified by chromatography on a column of silica eluted with a 50/50 heptane/ethyl acetate mixture. 222 mg (77%) of 2-[1-[2-ethoxy-3′-(3-heptyl-1-methylureido)biphenyl-4-yl]meth-(E)-ylidene]butyric acid are obtained in the form of a yellowish oil.

reactant | sodium hydroxide | 6.2 mmol, 249 mg | [OH-].[Na+]
reactant | ethyl 2-[1-[2-ethoxy-3′-(3-heptyl-1-methylureido)biphenyl-4-yl]meth-(E)-ylidene]butyrate | 0.65 mmol, 616 mg | C(C)OC1=C(C=CC(=C1)\C=C(\C(=O)OCC)/CC)C1=CC(=CC=C1)N(C(=O)NCCCCCCC)C | C30H42N2O4
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 2-[1-[2-ethoxy-3′-(3-heptyl-1-methylureido)biphenyl-4-yl]meth-(E)-ylidene]butyric acid | 222 mg, 77% | C(C)OC1=C(C=CC(=C1)\C=C(\C(=O)O)/CC)C1=CC(=CC=C1)N(C(=O)NCCCCCCC)C | C28H38N2O4
